US08008303B2
2′-Methyl-5′-[(morpholine-4-carbonyl)-amino]-biphenyl-4-carboxylic acid
2′-Methyl-5′-[(morpholine-4-carbonyl)-amino]-biphenyl-4-carboxylic acid ethyl ester (416 mg) was stirred in ethanol (15 ml) and 1M sodium hydroxide (4 ml) at 20 C for 18 h. The mixture was then acidified and extracted with dichloromethane. The dried extracts were then evaporated giving the title compound as a beige solid (295 mg).

reactant | 2′-Methyl-5′-[(morpholine-4-carbonyl)-amino]-biphenyl-4-carboxylic acid ethyl ester | 416 mg | C(C)OC(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)NC(=O)N1CCOCC1)C | C21H24N2O4
reactant | sodium hydroxide | 1M, 4 ml | [OH-].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 2′-Methyl-5′-[(morpholine-4-carbonyl)-amino]-biphenyl-4-carboxylic acid | 295 mg | CC1=C(C=C(C=C1)NC(=O)N1CCOCC1)C1=CC=C(C=C1)C(=O)O | C19H20N2O4
